US05475106
Using a procedure similar to that described in Example 31, but starting with 3-(hydroxymethyl)aniline (0.86 g) and 2-[N-(2-ethoxycarbonylphenyl)isocyanatoacetamido]-N-methyl-N-phenylacetamide (2.9 g), and after recrystallisation in ethyl acetate, 2-[N-(2-ethoxycarbonylphenyl)-2-{3-[3-(hydroxymethyl)phenyl]ureido}acetamido]-N-methyl-N-phenylacetamide (2 g), m.p. 184° C., is obtained.

reactant | 3-(hydroxymethyl)aniline | 0.86 g | OCC=1C=C(N)C=CC1 | C7H9NO
reactant | 2-[N-(2-ethoxycarbonylphenyl)isocyanatoacetamido]-N-methyl-N-phenylacetamide | 2.9 g | C(C)OC(=O)C1=C(C=CC=C1)N(C(CN=C=O)=O)CC(=O)N(C1=CC=CC=C1)C | C21H21N3O5
product | 2-[N-(2-ethoxycarbonylphenyl)-2-{3-[3-(hydroxymethyl)phenyl]ureido}acetamido]-N-methyl-N-phenylacetamide | 2 g | C(C)OC(=O)C1=C(C=CC=C1)N(C(CNC(=O)NC1=CC(=CC=C1)CO)=O)CC(=O)N(C1=CC=CC=C1)C | C28H30N4O6
